US05763437
To a solution of 3-azabicyclo[3.2.2]nonane (1.25 g) in dichioromethane (20 ml) and water (0.75 ml) was added dropwise a solution of bromoacetyl bromide (2.02 g) in dichloromethane (10 ml) at, 5°-10° C. The mixture was allowed to warm to room temperature and stirred for 1 hour at the same temperature. The reaction mixture was washed with a saturated sodium bicarbonate aqueous solution (10 ml) and a brine (10 ml). The organic layer was dried over magnesium sulfate. Filtration and evaporation gave N-bromomethylcarbonyl-3-azabicyclo[3.2.2]nonane (1.15 g). The compound was used in a following reaction step without further purification.

reactant | 3-azabicyclo[3.2.2]nonane | 1.25 g | C12CNCC(CC1)CC2 | C8H15N
reactant | bromoacetyl bromide | 2.02 g | BrCC(=O)Br | C2H2Br2O
solvent | dichioromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | 0.75 ml | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-bromomethylcarbonyl-3-azabicyclo[3.2.2]nonane | 1.15 g | BrCC(=O)N1CC2CCC(C1)CC2 | C10H16BrNO
